US04042397
a. N-butyl-N'-(4-sulphamoylphenyl) urea
A mixture of 4-aminobenzenesulphonamide (172 g, 1 mole), butylisocyanate (99 g, 1 mole) and acetone (150 ml) was refluxed for 7 hours. The urea, crystallizing after cooling, was collected and washed with acetone. Yield : 188 g. Melting point : 193° C. A second crop (48 g) was obtained by concentrating the filtrate to 0.5 l. The NMR spectrum was wholly consistent with the formula of N-butyl-N'-(4-sulphamoylphenyl) urea.

reactant | 4-aminobenzenesulphonamide | 1 mole, 172 g | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | butylisocyanate | 1 mole, 99 g | C(CCC)N=C=O | C5H9NO
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | N-butyl-N'-(4-sulphamoylphenyl) urea | C(CCC)NC(=O)NC1=CC=C(C=C1)S(N)(=O)=O | C11H17N3O3S
